US05409939
Preparation of (±)-ethyl 3-[[5-[4-(aminoiminomethyl)phenyl]-1-oxopentyl]amino]-4-(phenylsulfonyl)butanoate
(±)-3-[[5-[4-(Aminoiminomethyl)phenyl]-1-oxopentyl]amino]-4-(phenylsulfonyl)butanoic acid (2.5 g) was added to dry ethanol (50 ml) and 4N HCl in dioxane (10 ml) . This mixture was left to stir for 2 h. After complete reaction the solvent was removed under reduced pressure and the oily mass was purified by reverse phase chromatography (water/acetonitrile) and lyophilized to give 1.6 g of the title compound as a white solid: 1H NMR (d6 -DMSO) δ1.15 (t, 3H, J=7.5 Hz), 1.48 (m, 2H), 1.56 (m, 2H), 1.75 (m, 2H), 2.10 (m, 2H), 2.41 (m, 2H), 2.68 (m, 2H), 3.9 (m, 1H), 4.0 (q, 2H, J=7.5 Hz), 4.02 (m, 2H), 7.35 (m, 9H), 7.7 (bd, 1H, J=7.9 Hz), 9.05 (bs, 2H), 9.3 (bs, 2H)MS (FAB) m/e 474.1 (M+H+)

reactant | (±)-3-[[5-[4-(Aminoiminomethyl)phenyl]-1-oxopentyl]amino]-4-(phenylsulfonyl)butanoic acid | 2.5 g | NN=CC1=CC=C(C=C1)CCCCC(=O)NC(CC(=O)O)CS(=O)(=O)C1=CC=CC=C1 | C22H27N3O5S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (±)-ethyl 3-[[5-[4-(aminoiminomethyl)phenyl]-1-oxopentyl]amino]-4-(phenylsulfonyl)butanoate | 1.6 g | NN=CC1=CC=C(C=C1)CCCCC(=O)NC(CC(=O)OCC)CS(=O)(=O)C1=CC=CC=C1 | C24H31N3O5S
